US06620596B2
Synthesis of Glyoxal-guanine
22.65 g of guanine (manufactured by Tokyo Kasei Kogyo Co.,) and 21.75 g of a 40% glyoxal aqueous solution (manufactured by Tokyo Kasei Kogyo Co.,) were added to 950 mL of purified water, and the mixture was stirred with heating at 70° C. for 18 hours. The mixture was then cooled to 40° C. and filtered. The white solid obtained by the filtration was dried, thereby resulting in 30.7 g of glyoxal-guanine. The measurement result of nuclear magnetic resonance (NMR) spectrum is as follows.

reactant | guanine | 22.65 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | water | 950 mL | O | H2O
product | Glyoxal guanine | C(=O)C=O.N1C(N)=NC=2N=CNC2C1=O | InChI=1S/C5H5N5O.C2H2O2/c6-5-9-3-2(4(11)10-5)7-1-8-3;3-1-2-4/h1H,(H4,6,7,8,9,10,11);1-2H
